R1 ( net164 net189)  R=0.7E1
T2 ( net189 net189 vdd! vdd!)  pfet  L=0.75E-6 W=8.94E-6
T3 ( net1 net189 vdd! vdd!)  pfet  L=0.75E-6 W=8.94E-6
R4 (net63 net53) R=5.8E1
R5 ( net130 net125)  R=5.6E4
T6 ( net125 net125 vdd! vdd!)  pfet  L=9.66E-6 W=2.49E-6
T7 ( net32 net125 vdd! vdd!)  pfet  L=9.66E-6 W=2.49E-6
R8 (net136 net182) R=7.1E4
T9 (net18 net31 net31 0) pfet L=9.60E-6 W=8.54E-6
T10 (net35 net105 net105 0) nfet L=6.20E-6 W=1.31E-6
R11 (net66 net140) R=6.1E0
T12 (net94 net78 net78 0) pfet L=7.58E-6 W=3.57E-6
T13 (net173 net77 net77 0) nfet L=2.57E-6 W=8.34E-6
T14 (net87 net165 net165 0) pfet L=2.52E-6 W=5.25E-6
R15 (net164 net72) R=2.5E6
C16 (net159 net69) C=1.9E-7
R17 (net8 net79) R=9.7E2
T18 (net20 net16 net16 0) nfet L=9.68E-6 W=5.71E-6
C19 (net44 net60) C=8.4E-5
R20 (net53 net142) R=4.8E5
T21 (vdd! net131 net131 0) pfet L=8.58E-6 W=5.64E-6
T22 (net151 net43 net43 0) nfet L=8.59E-6 W=9.72E-6
C23 (net177 net163) C=9.8E-12
C24 (net92 net41) C=2.1E-12
T25 (net65 net133 net133 0) pfet L=5.82E-6 W=4.95E-6
C26 (vdd! net156) C=4.2E-12
T27 (net36 net106 net106 0) pfet L=3.22E-6 W=4.80E-6
C28 (net104 net177) C=1.9E-5
R29 (net177 net7) R=2.2E4
C30 (net185 net16) C=0.6E-14
R31 (net168 net9) R=3.8E4
T32 (net109 net45 net45 0) pfet L=6.63E-6 W=3.59E-6
T33 (net45 net167 net167 0) pfet L=7.34E-6 W=4.66E-6
R34 (net69 net64) R=3.4E2
R35 (net175 net174) R=5.8E1
C36 (net132 net137) C=3.0E-10
C37 (net171 net153) C=1.4E-8
T38 (net85 net67 net67 0) pfet L=7.99E-6 W=9.41E-6
T39 (0 vdd! vdd! 0) pfet L=1.65E-6 W=6.48E-6
T40 (net56 net9 net9 0) pfet L=7.25E-6 W=3.83E-6
T41 (net130 net17 net17 0) nfet L=3.83E-6 W=4.16E-6
T42 (net177 net56 net56 0) pfet L=5.07E-6 W=7.61E-6
C43 (net111 0) C=0.2E-7
R44 (net84 net156) R=7.3E5
C45 (net188 net129) C=0.1E-6
T46 (net135 net165 net165 0) pfet L=0.46E-6 W=2.40E-6
T47 (net68 net64 net64 0) nfet L=8.05E-6 W=3.03E-6
T48 (net91 net9 net9 0) pfet L=6.94E-6 W=6.76E-6
C49 (net143 net53) C=7.9E-7
T50 (net131 net129 net129 0) nfet L=6.25E-6 W=4.88E-6
C51 (net180 net167) C=1.2E-14
T52 (vdd! net173 net173 0) pfet L=4.57E-6 W=5.63E-6
T53 (net2 net163 net163 0) nfet L=1.75E-6 W=3.03E-6
R54 (net95 net66) R=4.1E0
T55 (net23 0 0 0) pfet L=9.73E-6 W=4.01E-6
R56 (net54 net1) R=8.4E5
R57 (net157 net95) R=4.6E3
C58 (net31 net36) C=3.5E-10
R59 (net55 net167) R=5.5E5
T60 (net123 net18 net18 0) nfet L=9.77E-6 W=3.69E-6
T61 (net116 net50 net50 0) pfet L=3.51E-6 W=2.37E-6
T62 (net21 net44 net44 0) pfet L=3.43E-6 W=9.12E-6
T63 (net3 net153 net153 0) nfet L=6.12E-6 W=8.63E-6
T64 (vdd! net132 net132 0) pfet L=9.45E-6 W=2.60E-6
R65 (net51 net71) R=3.3E5
C66 (net32 net168) C=1.5E-5
R67 (net93 net163) R=9.4E0
R68 (net10 net164) R=5.1E3
C69 (net72 net79) C=7.0E-10
C70 (vdd! net67) C=2.5E-9
C71 (net79 net84) C=9.2E-10
C72 (vdd! net140) C=4.5E-10
R73 (net54 net96) R=5.2E4
R74 (net81 net28) R=5.4E4
T75 (net70 net1 net1 0) pfet L=7.75E-6 W=1.50E-6
T76 (net32 net5 net5 0) pfet L=8.49E-6 W=2.96E-6
C77 (net161 net16) C=7.3E-9
C78 (0 net70) C=9.5E-5
R79 (net168 net184) R=8.8E0
T80 (net10 net48 net48 0) pfet L=5.82E-6 W=9.10E-6
C81 (net150 net139) C=6.1E-14
R82 (net72 0) R=2.6E2
T83 (net75 net78 net78 0) nfet L=3.86E-6 W=4.20E-6
C84 (net102 net140) C=2.5E-13
T85 (net40 net44 net44 0) pfet L=0.41E-6 W=2.42E-6
R86 (net126 net7) R=4.2E2
R87 (net35 vdd!) R=6.7E1
R88 (net65 net120) R=1.7E6
R89 (net72 net14) R=6.4E4
C90 (net155 net84) C=6.4E-11
T91 (net4 net158 net158 0) pfet L=2.76E-6 W=3.91E-6
T92 (net19 net82 net82 0) nfet L=6.36E-6 W=5.84E-6
C93 (net137 net147) C=5.0E-7
C94 (net59 net15) C=6.9E-11
R95 (net99 net111) R=7.6E5
C96 (net11 net155) C=0.8E-13
R97 (net145 0) R=5.6E0
T98 (net110 0 0 0) pfet L=6.02E-6 W=4.55E-6
T99 (net54 net120 net120 0) nfet L=9.40E-6 W=7.68E-6
T100 (net1 net11 net11 0) pfet L=7.61E-6 W=3.85E-6
T101 (net59 net118 net118 0) nfet L=0.55E-6 W=1.69E-6
T102 (net48 net46 net46 0) pfet L=9.70E-6 W=4.05E-6
T103 (net28 net15 net15 0) pfet L=7.20E-6 W=0.37E-6
R104 (net4 net66) R=7.1E1
T105 (net67 net158 net158 0) nfet L=2.58E-6 W=8.99E-6
R106 (net181 0) R=9.7E6
T107 (0 net99 net99 0) nfet L=9.99E-6 W=1.92E-6
R108 (0 net172) R=5.2E6
R109 (net148 0) R=8.4E0
T110 (net180 net154 net154 0) pfet L=2.50E-6 W=8.66E-6
C111 (net44 vdd!) C=4.7E-12
C112 (vdd! net75) C=1.3E-5
T113 (net177 net119 net119 0) pfet L=9.21E-6 W=1.11E-6
T114 (net122 net10 net10 0) pfet L=4.41E-6 W=7.70E-6
R115 (net96 net167) R=6.2E4
R116 (net133 net62) R=8.1E4
T117 (net114 net164 net164 0) nfet L=0.27E-6 W=1.11E-6
T118 (net138 net23 net23 0) nfet L=0.85E-6 W=5.45E-6
C119 (net86 vdd!) C=2.1E-9
C120 (net51 net85) C=2.7E-6
T121 (net146 net9 net9 0) nfet L=5.87E-6 W=7.01E-6
C122 (net6 net96) C=9.8E-14
T123 (net108 net158 net158 0) nfet L=2.60E-6 W=4.96E-6
C124 (net34 0) C=2.5E-8
T125 (net118 net77 net77 0) pfet L=1.74E-6 W=3.64E-6
T126 (net104 net98 net98 0) nfet L=0.23E-6 W=2.28E-6
T127 (vdd! net75 net75 0) pfet L=2.68E-6 W=5.89E-6
T128 (net28 net178 net178 0) nfet L=5.43E-6 W=4.83E-6
R129 (net25 net137) R=0.3E6
C130 (net83 net75) C=2.3E-14
T131 (net95 net128 net128 0) nfet L=4.69E-6 W=6.91E-6
T132 (net136 0 0 0) nfet L=8.43E-6 W=2.79E-6
T133 (net165 net134 net134 0) nfet L=5.32E-6 W=1.24E-6
C134 (net130 net7) C=9.5E-7
T135 (net126 net103 net103 0) pfet L=7.21E-6 W=9.38E-6
R136 (net82 net5) R=1.8E5
T137 (vdd! net78 net78 0) pfet L=3.65E-6 W=1.68E-6
T138 (net69 net97 net97 0) nfet L=4.45E-6 W=5.57E-6
C139 (net29 net168) C=3.8E-7
C140 (net65 net81) C=4.9E-10
C141 (net128 net115) C=0.2E-9
T142 (net103 net69 net69 0) pfet L=1.58E-6 W=0.23E-6
C143 (net97 net180) C=6.0E-7
R144 (net150 net84) R=1.1E3
C145 (net176 net186) C=8.9E-12
T146 (net112 net13 net13 0) nfet L=3.51E-6 W=5.37E-6
T147 (net32 net164 net164 0) pfet L=3.87E-6 W=8.12E-6
T148 (net158 net64 net64 0) nfet L=4.33E-6 W=5.28E-6
T149 (net117 net186 net186 0) pfet L=6.17E-6 W=7.59E-6
R150 (net25 net115) R=5.6E5
C151 (net161 net61) C=6.2E-7
T152 (net8 net25 net25 0) nfet L=4.82E-6 W=4.74E-6
T153 (net147 net36 net36 0) nfet L=6.23E-6 W=4.24E-6
T154 (net12 net175 net175 0) pfet L=1.39E-6 W=1.52E-6
T155 (net25 0 0 0) pfet L=2.67E-6 W=7.63E-6
T156 (vdd! net39 net39 0) nfet L=1.33E-6 W=5.42E-6
T157 (net174 net58 net58 0) pfet L=6.29E-6 W=3.28E-6
T158 (net117 net156 net156 0) pfet L=1.54E-6 W=4.69E-6
R159 (net27 net10) R=5.4E5
T160 (net157 net130 net130 0) nfet L=7.69E-6 W=3.10E-6
C161 (net130 net148) C=7.2E-11
C162 (net128 net153) C=2.5E-10
T163 (net100 net23 net23 0) nfet L=0.77E-6 W=8.38E-6
T164 (net88 net51 net51 0) nfet L=2.32E-6 W=9.67E-6
T165 (net36 net183 net183 0) nfet L=1.76E-6 W=9.87E-6
C166 (net74 net171) C=2.4E-13
T167 (0 net180 net180 0) pfet L=6.49E-6 W=8.73E-6
T168 (net154 net152 net152 0) pfet L=4.31E-6 W=3.93E-6
T169 (net93 net117 net117 0) nfet L=1.36E-6 W=7.59E-6
T170 (net172 net173 net173 0) pfet L=1.44E-6 W=1.45E-6
T171 (net149 net99 net99 0) pfet L=5.98E-6 W=6.15E-6
C172 (net71 net180) C=5.8E-8
R173 (net56 net158) R=1.8E1
T174 (net52 net150 net150 0) pfet L=9.81E-6 W=8.62E-6
C175 (net89 net109) C=1.8E-12
T176 (net136 net140 net140 0) nfet L=7.52E-6 W=4.96E-6
R177 (net40 net35) R=9.7E1
T178 (net9 net57 net57 0) pfet L=8.38E-6 W=4.67E-6
C179 (net135 net68) C=4.9E-8
T180 (net140 0 0 0) pfet L=4.21E-6 W=7.76E-6
C181 (net137 net170) C=9.4E-12
R182 (net3 net19) R=1.0E4
T183 (net150 net165 net165 0) nfet L=5.68E-6 W=2.88E-6
T184 (net159 net163 net163 0) nfet L=7.05E-6 W=4.70E-6
T185 (net1 net180 net180 0) nfet L=1.65E-6 W=0.41E-6
R186 (net89 net18) R=4.1E0
T187 (net122 net72 net72 0) pfet L=5.76E-6 W=5.67E-6
R188 (net100 net4) R=3.4E4
T189 (net106 net46 net46 0) pfet L=6.26E-6 W=7.86E-6
T190 (net104 0 0 0) pfet L=8.14E-6 W=1.18E-6
T191 (net142 net4 net4 0) nfet L=1.92E-6 W=2.38E-6
T192 (net130 net10 net10 0) nfet L=4.99E-6 W=4.75E-6
C193 (net164 net117) C=4.2E-12
R194 (net109 net129) R=9.7E5
R195 (net5 net51) R=5.9E4
T196 (net72 net79 net79 0) pfet L=4.12E-6 W=1.63E-6
T197 (net5 net93 net93 0) pfet L=1.47E-6 W=1.93E-6
T198 (net74 vdd! vdd! 0) nfet L=1.52E-6 W=7.85E-6
T199 (net37 net55 net55 0) pfet L=6.00E-6 W=0.36E-6
T200 (net155 vdd! vdd! 0) pfet L=1.96E-6 W=4.28E-6
T201 (net2 net157 net157 0) pfet L=4.91E-6 W=7.05E-6
T202 (net39 vdd! vdd! 0) nfet L=5.38E-6 W=5.28E-6
T203 (net161 net65 net65 0) nfet L=8.78E-6 W=2.21E-6
T204 (net35 net8 net8 0) nfet L=4.82E-6 W=7.07E-6
R205 (net81 vdd!) R=5.5E3
C206 (net171 net95) C=6.2E-13
T207 (net113 net5 net5 0) nfet L=8.59E-6 W=9.11E-6
T208 (net63 net23 net23 0) pfet L=1.18E-6 W=4.83E-6
C209 (net49 net164) C=3.8E-14
T210 (net19 net171 net171 0) pfet L=8.90E-6 W=6.49E-6
R211 (net82 net97) R=5.6E3
C212 (net121 net30) C=7.6E-5
T213 (net24 net40 net40 0) pfet L=1.23E-6 W=3.29E-6
T214 (net18 net69 net69 0) pfet L=9.08E-6 W=0.46E-6
T215 (net175 net23 net23 0) pfet L=4.75E-6 W=3.17E-6
T216 (net120 net70 net70 0) pfet L=8.55E-6 W=7.76E-6
C217 (net37 0) C=3.7E-11
T218 (net173 net120 net120 0) nfet L=2.32E-6 W=7.06E-6
T219 (0 net18 net18 0) nfet L=4.07E-6 W=8.14E-6
C220 (net148 net16) C=0.7E-9
C221 (net118 net122) C=1.1E-12
C222 (net67 net128) C=1.2E-9
R223 (net159 net90) R=6.1E2
T224 (net75 net190 net190 0) nfet L=9.51E-6 W=5.36E-6
R225 (net49 net86) R=1.5E4
T226 (net55 net178 net178 0) nfet L=6.66E-6 W=4.79E-6
C227 (0 net133) C=3.2E-5
R228 (net45 net78) R=8.1E3
R229 (net78 net139) R=9.5E2
R230 (net188 net180) R=9.8E6
C231 (vdd! net50) C=5.0E-14
R232 (0 net65) R=4.2E4
C233 (net170 0) C=9.8E-6
T234 (net176 net19 net19 0) pfet L=0.75E-6 W=7.67E-6
R235 (net153 net100) R=7.2E5
R236 (net147 vdd!) R=7.9E0
T237 (net5 net85 net85 0) pfet L=7.15E-6 W=2.64E-6
T238 (net115 net98 net98 0) nfet L=9.39E-6 W=4.72E-6
R239 (net185 net19) R=4.2E5
R240 (net89 vdd!) R=2.5E3
C241 (net112 net77) C=6.3E-12
T242 (net83 vdd! vdd! 0) pfet L=5.05E-6 W=9.30E-6
T243 (net49 net11 net11 0) pfet L=9.27E-6 W=2.37E-6
T244 (net41 0 0 0) nfet L=4.21E-6 W=3.60E-6
R245 (net182 0) R=7.0E3
C246 (net49 net186) C=1.9E-14
T247 (net120 net123 net123 0) nfet L=5.63E-6 W=8.84E-6
T248 (net128 net100 net100 0) pfet L=7.26E-6 W=9.10E-6
C249 (0 net7) C=0.7E-9
T250 (net137 net4 net4 0) nfet L=5.05E-6 W=3.40E-6
C251 (net46 net40) C=0.2E-7
T252 (net101 net54 net54 0) pfet L=8.46E-6 W=2.04E-6
R253 (net113 net46) R=2.7E1
C254 (net92 net102) C=7.4E-13
T255 (net88 net122 net122 0) nfet L=0.74E-6 W=2.07E-6
T256 (net139 net13 net13 0) nfet L=0.54E-6 W=4.60E-6
R257 (net25 net108) R=7.3E6
C258 (net113 net54) C=6.2E-13
T259 (net123 net70 net70 0) nfet L=7.53E-6 W=5.66E-6
R260 (net25 0) R=0.5E1
R261 (net128 net139) R=2.6E4
T262 (net177 net86 net86 0) pfet L=4.96E-6 W=6.37E-6
R263 (0 net71) R=2.0E1
C264 (net89 net126) C=6.3E-7
R265 (net171 net78) R=8.1E1
C266 (net136 net71) C=0.2E-9
T267 (net14 net95 net95 0) pfet L=9.74E-6 W=9.99E-6
C268 (net66 net110) C=1.1E-11
R269 (net190 net174) R=5.2E0
R270 (net4 net54) R=7.2E0
T271 (net37 net41 net41 0) pfet L=8.55E-6 W=0.71E-6
R272 (net155 0) R=1.6E2
T273 (net110 net149 net149 0) pfet L=8.50E-6 W=4.46E-6
T274 (net130 0 0 0) nfet L=5.17E-6 W=9.42E-6
R275 (net92 net28) R=9.7E4
C276 (net153 net12) C=0.9E-6
R277 (net29 net27) R=8.9E0
T278 (0 net27 net27 0) nfet L=2.31E-6 W=1.66E-6
T279 (net118 net27 net27 0) nfet L=5.94E-6 W=5.80E-6
R280 (net176 net150) R=7.1E5
T281 (net108 net167 net167 0) pfet L=2.47E-6 W=5.02E-6
C282 (net172 net152) C=9.1E-11
T283 (net114 net36 net36 0) nfet L=1.32E-6 W=1.73E-6
R284 (net73 net168) R=5.1E6
T285 (net15 0 0 0) pfet L=4.26E-6 W=5.15E-6
T286 (net78 net168 net168 0) nfet L=5.52E-6 W=9.56E-6
R287 (net25 net54) R=4.7E0
C288 (0 net109) C=8.5E-6
T289 (net124 net48 net48 0) pfet L=6.67E-6 W=0.96E-6
T290 (net26 net29 net29 0) pfet L=1.01E-6 W=3.17E-6
T291 (net106 net113 net113 0) nfet L=8.00E-6 W=0.85E-6
T292 (net26 net85 net85 0) nfet L=8.35E-6 W=7.33E-6
T293 (net114 net85 net85 0) nfet L=1.15E-6 W=6.61E-6
T294 (net149 net150 net150 0) nfet L=2.86E-6 W=2.32E-6
T295 (net188 net182 net182 0) pfet L=2.20E-6 W=2.70E-6
R296 (net101 net118) R=6.0E0
T297 (net44 net105 net105 0) pfet L=8.83E-6 W=6.99E-6
R298 (0 net42) R=4.5E6
C299 (net167 net46) C=6.2E-8
R300 (net170 net183) R=5.1E4
T301 (net133 net105 net105 0) nfet L=0.68E-6 W=9.09E-6
T302 (net14 net2 net2 0) nfet L=6.64E-6 W=9.56E-6
C303 (net89 net19) C=5.2E-7
T304 (net80 vdd! vdd! 0) pfet L=1.70E-6 W=4.54E-6
C305 (net34 net127) C=9.5E-14
T306 (net101 net15 net15 0) pfet L=2.61E-6 W=3.48E-6
T307 (net93 net23 net23 0) nfet L=8.65E-6 W=9.35E-6
T308 (net85 net165 net165 0) pfet L=8.64E-6 W=6.02E-6
C309 (net88 net27) C=0.5E-10
R310 (net66 net75) R=6.7E3
C311 (net15 net70) C=1.9E-12
C312 (net5 vdd!) C=3.2E-14
C313 (net184 0) C=6.3E-7
T314 (net127 net96 net96 0) pfet L=5.16E-6 W=7.69E-6
R315 (net83 net123) R=9.9E4
C316 (net29 net75) C=3.3E-7
R317 (net134 0) R=3.2E4
R318 (net111 net162) R=2.2E0
T319 (net88 net50 net50 0) nfet L=2.31E-6 W=2.52E-6
T320 (vdd! net49 net49 0) nfet L=2.46E-6 W=2.67E-6
R321 (net156 net83) R=4.1E2
T322 (net154 net52 net52 0) nfet L=1.95E-6 W=7.81E-6
R323 (net139 net127) R=9.1E6
C324 (net62 net96) C=1.5E-9
T325 (net176 net128 net128 0) pfet L=5.46E-6 W=1.16E-6
T326 (net45 net146 net146 0) pfet L=8.89E-6 W=7.77E-6
R327 (net22 net91) R=9.1E1
R328 (vdd! net24) R=6.3E2
R329 (net148 net56) R=3.8E1
R330 (net16 net67) R=4.5E6
R331 (net22 net66) R=3.3E2
T332 (net27 net9 net9 0) pfet L=7.98E-6 W=5.35E-6
T333 (vdd! net79 net79 0) nfet L=8.21E-6 W=9.76E-6
T334 (net78 net149 net149 0) pfet L=4.93E-6 W=8.39E-6
R335 (net20 net48) R=7.6E5
R336 (vdd! net46) R=7.0E5
T337 (net128 net124 net124 0) nfet L=1.99E-6 W=0.22E-6
T338 (0 net149 net149 0) pfet L=5.23E-6 W=3.55E-6
R339 (net172 vdd!) R=2.0E6
C340 (net101 0) C=6.2E-11
T341 (net108 net106 net106 0) pfet L=1.65E-6 W=5.12E-6
T342 (net93 net95 net95 0) pfet L=3.29E-6 W=2.21E-6
T343 (net64 net110 net110 0) nfet L=6.49E-6 W=1.67E-6
T344 (net170 net38 net38 0) pfet L=1.59E-6 W=4.99E-6
R345 (net33 net117) R=6.0E1
T346 (net170 net160 net160 0) pfet L=8.95E-6 W=8.42E-6
T347 (net52 0 0 0) nfet L=2.98E-6 W=4.16E-6
T348 (net88 net4 net4 0) nfet L=7.42E-6 W=2.87E-6
R349 (net17 net145) R=4.5E3
R350 (0 net25) R=6.7E0
T351 (net38 net49 net49 0) pfet L=8.00E-6 W=6.53E-6
C352 (net25 net43) C=0.9E-9
R353 (net165 net53) R=9.6E1
T354 (net56 net152 net152 0) nfet L=7.70E-6 W=7.24E-6
C355 (net58 net93) C=7.7E-8
T356 (net145 net81 net81 0) nfet L=6.82E-6 W=0.87E-6
T357 (net182 net163 net163 0) pfet L=7.85E-6 W=5.98E-6
T358 (net120 net33 net33 0) pfet L=7.84E-6 W=4.53E-6
R359 (net183 net129) R=4.7E0
C360 (net169 net8) C=2.4E-11
C361 (net113 net46) C=6.2E-8
R362 (net135 net44) R=2.4E6
C363 (net21 net147) C=6.0E-7
T364 (net72 net141 net141 0) pfet L=3.68E-6 W=3.58E-6
T365 (0 net90 net90 0) nfet L=0.64E-6 W=0.99E-6
C366 (net124 net132) C=9.9E-12
C367 (net53 net99) C=3.2E-8
C368 (net31 net146) C=0.5E-14
C369 (net102 net29) C=8.8E-10
T370 (net80 net77 net77 0) pfet L=0.78E-6 W=8.86E-6
C371 (net138 net149) C=0.4E-9
T372 (net184 net59 net59 0) pfet L=3.51E-6 W=1.63E-6
T373 (net174 net120 net120 0) pfet L=9.38E-6 W=4.89E-6
T374 (net81 0 0 0) pfet L=6.84E-6 W=7.13E-6
T375 (net45 net14 net14 0) pfet L=7.99E-6 W=5.58E-6
T376 (net34 net32 net32 0) nfet L=9.51E-6 W=5.82E-6
R377 (net44 net110) R=7.9E6
R378 (net185 vdd!) R=3.2E1
T379 (net159 net72 net72 0) nfet L=8.44E-6 W=9.49E-6
T380 (net75 net13 net13 0) pfet L=6.24E-6 W=7.06E-6
R381 (net122 net72) R=3.3E5
T382 (net137 0 0 0) pfet L=4.88E-6 W=0.67E-6
R383 (net7 net45) R=1.7E5
C384 (net11 net123) C=7.5E-9
T385 (net188 net96 net96 0) pfet L=0.18E-6 W=8.30E-6
C386 (net184 net175) C=2.9E-9
T387 (net157 net173 net173 0) nfet L=7.04E-6 W=9.38E-6
R388 (net166 net15) R=8.7E5
C389 (net110 0) C=5.3E-8
T390 (net8 net173 net173 0) pfet L=0.88E-6 W=2.16E-6
T391 (net77 net133 net133 0) pfet L=3.39E-6 W=3.57E-6
T392 (0 net71 net71 0) pfet L=1.21E-6 W=0.72E-6
C393 (net24 net82) C=8.4E-7
C394 (net64 net135) C=7.4E-10
C395 (net96 net84) C=8.9E-14
T396 (net158 net139 net139 0) nfet L=3.51E-6 W=9.74E-6
T397 (net100 net23 net23 0) nfet L=2.57E-6 W=1.13E-6
C398 (net147 net23) C=7.9E-10
C399 (net70 0) C=5.5E-5
T400 (net60 net23 net23 0) pfet L=4.60E-6 W=0.60E-6
T401 (net28 vdd! vdd! 0) pfet L=2.16E-6 W=3.89E-6
T402 (net146 net139 net139 0) pfet L=7.85E-6 W=4.51E-6
R403 (net168 net157) R=9.3E1
R404 (net147 net36) R=1.0E6
C405 (net171 net38) C=3.6E-14
T406 (net165 net117 net117 0) nfet L=5.07E-6 W=6.74E-6
T407 (vdd! net160 net160 0) pfet L=6.02E-6 W=7.67E-6
R408 (net135 net110) R=5.5E2
R409 (net132 net143) R=5.7E6
T410 (net27 net95 net95 0) nfet L=6.26E-6 W=4.62E-6
T411 (net130 net74 net74 0) nfet L=7.44E-6 W=3.53E-6
T412 (net65 net13 net13 0) nfet L=1.54E-6 W=7.50E-6
C413 (net107 vdd!) C=6.4E-5
C414 (net116 net10) C=0.8E-9
C415 (net181 net132) C=9.9E-8
R416 (net154 net99) R=6.1E5
T417 (net17 net168 net168 0) nfet L=3.93E-6 W=9.91E-6
T418 (net87 net41 net41 0) pfet L=5.33E-6 W=2.46E-6
R419 (net32 net185) R=4.6E1
C420 (net176 vdd!) C=8.4E-7
T421 (0 net48 net48 0) pfet L=7.70E-6 W=1.15E-6
C422 (net149 net75) C=6.3E-8
C423 (net156 net190) C=7.7E-8
T424 (net115 net3 net3 0) nfet L=2.63E-6 W=2.57E-6
C425 (net149 net103) C=1.1E-8
R426 (net165 net127) R=1.6E4
R427 (net12 net24) R=2.3E0
T428 (net6 vdd! vdd! 0) pfet L=2.94E-6 W=6.85E-6
R429 (net111 net2) R=3.0E4
T430 (net64 0 0 0) nfet L=6.30E-6 W=7.78E-6
T431 (net131 0 0 0) pfet L=7.94E-6 W=8.57E-6
R432 (vdd! 0) R=0.6E5
T433 (net170 vdd! vdd! 0) pfet L=6.29E-6 W=2.66E-6
R434 (net156 net155) R=9.6E1
T435 (0 net79 net79 0) pfet L=8.88E-6 W=3.46E-6
C436 (net60 net36) C=0.3E-14
C437 (net130 net96) C=3.4E-13
C438 (net126 0) C=4.4E-13
R439 (net164 net26) R=5.5E0
T440 (net22 net26 net26 0) nfet L=7.75E-6 W=6.98E-6
T441 (net55 net85 net85 0) nfet L=3.93E-6 W=3.50E-6
T442 (net16 net9 net9 0) nfet L=5.58E-6 W=0.62E-6
C443 (net30 net132) C=3.3E-14
T444 (net75 net153 net153 0) nfet L=7.82E-6 W=1.51E-6
C445 (net168 net133) C=5.0E-10
C446 (net2 net86) C=1.0E-6
C447 (net109 net68) C=4.6E-10
T448 (net32 net149 net149 0) nfet L=4.72E-6 W=3.96E-6
C449 (net143 net53) C=5.0E-12
T450 (net52 net63 net63 0) pfet L=8.12E-6 W=5.57E-6
T451 (net102 net126 net126 0) nfet L=1.98E-6 W=3.43E-6
C452 (net73 net145) C=7.6E-10
C453 (net162 0) C=3.4E-12
T454 (net126 vdd! vdd! 0) pfet L=1.99E-6 W=3.42E-6
C455 (net154 net26) C=8.2E-11
R456 (net159 net96) R=4.4E3
R457 (net93 net30) R=4.7E0
T458 (net37 net146 net146 0) pfet L=7.16E-6 W=4.85E-6
C459 (net91 net68) C=3.9E-14
T460 (net65 net75 net75 0) nfet L=8.47E-6 W=2.74E-6
C461 (net87 net89) C=3.2E-6
R462 (net112 net152) R=9.6E0
T463 (vdd! net116 net116 0) nfet L=4.60E-6 W=8.51E-6
C464 (net168 net108) C=6.5E-5
T465 (net19 net80 net80 0) nfet L=7.96E-6 W=2.53E-6
T466 (net50 net73 net73 0) nfet L=0.68E-6 W=2.78E-6
C467 (net94 net9) C=6.6E-8
C468 (0 net20) C=4.3E-12
C469 (net170 net42) C=0.8E-10
T470 (net131 vdd! vdd! 0) pfet L=6.23E-6 W=1.34E-6
R471 (net164 net28) R=1.3E0
T472 (0 net163 net163 0) pfet L=5.66E-6 W=5.52E-6
R473 (net164 net76) R=5.4E3
C474 (net3 net117) C=6.2E-5
C475 (net153 net74) C=1.8E-6
R476 (vdd! net66) R=5.4E4
T477 (net147 net62 net62 0) nfet L=9.03E-6 W=8.32E-6
T478 (net54 net16 net16 0) nfet L=2.00E-6 W=9.44E-6
C479 (net169 net99) C=9.2E-13
T480 (net12 net187 net187 0) nfet L=6.81E-6 W=1.62E-6
C481 (net6 net74) C=7.4E-9
R482 (net51 net53) R=2.0E2
R483 (net156 net164) R=2.7E0
T484 (0 net168 net168 0) pfet L=8.71E-6 W=7.01E-6
C485 (net21 net88) C=7.4E-5
T486 (net157 net113 net113 0) nfet L=7.05E-6 W=7.95E-6
C487 (net92 net165) C=2.8E-12
C488 (net34 net85) C=8.7E-6
C489 (net88 net64) C=5.8E-12
R490 (net171 0) R=0.6E5
R491 (net29 net155) R=4.2E5
T492 (net104 net99 net99 0) nfet L=4.51E-6 W=4.73E-6
T493 (net184 net122 net122 0) pfet L=4.28E-6 W=0.69E-6
R494 (net170 net168) R=9.0E6
T495 (net13 net26 net26 0) nfet L=7.20E-6 W=3.89E-6
T496 (vdd! net79 net79 0) pfet L=7.49E-6 W=4.62E-6
T497 (net113 net123 net123 0) nfet L=0.60E-6 W=4.02E-6
T498 (net137 net17 net17 0) pfet L=3.51E-6 W=3.71E-6
R499 (net152 net52) R=3.4E3
T500 (net53 net75 net75 0) pfet L=9.61E-6 W=7.50E-6
R501 (net160 net79) R=8.6E3
R502 (net55 net180) R=2.3E4
T503 (0 net50 net50 0) nfet L=2.95E-6 W=1.77E-6
T504 (net20 net134 net134 0) nfet L=6.59E-6 W=0.29E-6
T505 (net105 net59 net59 0) pfet L=7.94E-6 W=7.13E-6
R506 (net54 net112) R=2.2E4
T507 (net21 net167 net167 0) nfet L=7.89E-6 W=8.47E-6
C508 (net122 0) C=8.3E-7
R509 (net46 net114) R=9.7E0
T510 (net91 net101 net101 0) pfet L=6.79E-6 W=7.30E-6
C511 (net9 net105) C=6.8E-6
T512 (net139 net70 net70 0) pfet L=7.37E-6 W=2.31E-6
C513 (net94 0) C=2.8E-10
T514 (net120 net23 net23 0) pfet L=2.67E-6 W=0.89E-6
C515 (net138 0) C=2.7E-5
R516 (net78 net38) R=5.5E3
R517 (net155 net80) R=8.7E3
T518 (net97 net20 net20 0) nfet L=2.09E-6 W=5.97E-6
T519 (vdd! net140 net140 0) nfet L=3.38E-6 W=4.45E-6
R520 (net103 net77) R=0.5E3
C521 (net80 net62) C=2.1E-11
T522 (net95 net64 net64 0) pfet L=2.05E-6 W=4.41E-6
T523 (net86 net1 net1 0) pfet L=9.45E-6 W=2.12E-6
R524 (net116 net28) R=2.9E2
R525 (net52 net48) R=7.2E1
T526 (net70 net7 net7 0) pfet L=8.89E-6 W=7.74E-6
C527 (net44 net168) C=6.0E-7
R528 (net111 net144) R=0.8E4
C529 (net187 net63) C=9.0E-11

